US09388189B2
(S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-methoxyphenyl)-1-(4-fluorophenyl)methanesulfonamide
To a solution of (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (120 mg, 0.27 mmol) were added 1-(4-fluorophenyl)-N-(3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide (138 mg, 0.33 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (22 mg, 0.03 mmol) and 273 μl of a 2M aqueous solution of cesium carbonate in dioxane (5 ml). The mixture was stirred under argon atmosphere at 100° C. for 18 hours and then diluted with ethyl acetate. The resulting solution was washed with water and brine, dried over magnesium sulphate, filtered and the solvents were removed under reduced pressure. The crude was purified using SP1® Purification System (0 to 80%, hexane-ethyl acetate) to give 155 mg (85% yield) of the title compound as a white solid. Purity 98%.

reactant | (S)-2-(1-((6-amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.27 mmol, 120 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | 1-(4-fluorophenyl)-N-(3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methanesulfonamide | 0.33 mmol, 138 mg | FC1=CC=C(C=C1)CS(=O)(=O)NC1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC | C20H25BFNO5S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)—N-(3-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-5-methoxyphenyl)-1-(4-fluorophenyl)methanesulfonamide | 155 mg, 85% yield | NC1=NC=NC(=C1C=1C=C(C=C(C1)OC)NS(=O)(=O)CC1=CC=C(C=C1)F)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C33H31FN8O4S
